US05780648
[2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][phenyl]methanone
3 g (11.1 mmol) of 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene and 1.55 g (11.1 mmol) of benzoyl chloride were suspended in 150 mL of CH2 Cl2 and cooled to 0° C. The reaction mixture was vigorously stirred and 1.6 g (12 mmol) of AlCl3 was added in several portions over a ten minute time period. The reaction was allowed to proceed for one hour, after which 1 L of water was added to quench the reaction. The organic layer was separated and washed with 100 mL of 1N NaOH, 100 mL of brine, dried by filtration through anhydrous K2CO3, and evaporated to dryness. The crude product was crystallized twice from MeOH. This yielded 1.85 g of the title compound as white crystalline solid.

reactant | 2-(4-methoxyphenyl)-6-methoxybenzo[b]thiophene | 11.1 mmol, 3 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | benzoyl chloride | 11.1 mmol, 1.55 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Cl2 | ClCl | Cl2
reactant | AlCl3 | 12 mmol, 1.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | water | 1 L | O | H2O
product | [2-(4-Methoxyphenyl)-6-methoxybenzo[b]thien-3-yl][phenyl]methanone | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=C(C=C2)OC)C(=O)C2=CC=CC=C2 | C23H18O3S
